US05004747
A mixture of 4-(4-fluorophenyl)isocoumarin-3-carboxylic acid (59.8 g) and isopropylamine (210 ml) in ethanol (610 ml) was heated in a sealed pressure vessel at 100° C. for 16 hours. The mixture was then evaporated to dryness and the resulting residue was suspended in water (500 ml) and extracted with diethyl ether (100 ml). The layers were separated, and the aqueous layer was acidified to pH1 by treatment with concentrated hydrochloric acid. The precipitate was filtered off, washed with water, and crystallised from aqueous ethanol, to give 4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid (51.3 g) in the form of white microcrystals, m.p.128°-130° C. [Elemental analysis: C,65.0; H,5.16; N,3.98; F,5.6; H2O, 6.1%; calculated for C19H16FNO3 :1.3H2O: C,65.4; H,5.38; N,4.02; F,5.45; H2O, 6.7%].

reactant | 4-(4-fluorophenyl)isocoumarin-3-carboxylic acid | 59.8 g | FC1=CC=C(C=C1)C1=C(OC(=O)C2=CC=CC=C12)C(=O)O | C16H9FO4
reactant | isopropylamine | 210 ml | C(C)(C)N | C3H9N
solvent | ethanol | 610 ml | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid | 51.3 g | FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)C(=O)O | C19H16FNO3
